US07452911B2
3.29b {5-[5-(4-chloro-phenyl)-pyridin-2-ylethynyl]-pyridin-2-yl}-(2-pyrrolidin-1-yl-ethyl)-amine
The product is obtained analogously to Example 3.16b is from 90 mg (0.33 mmol) (5-bromo-pyridin-2-yl)-(2-pyrrolidin-1-yl-ethyl)-amine and 88 mg (0.41 mmol) 5-(4-chloro-phenyl)-2-ethynyl-pyridine.

reactant | (5-bromo-pyridin-2-yl)-(2-pyrrolidin-1-yl-ethyl)-amine | 0.33 mmol, 90 mg | BrC=1C=CC(=NC1)NCCN1CCCC1 | C11H16BrN3
reactant | 5-(4-chloro-phenyl)-2-ethynyl-pyridine | 0.41 mmol, 88 mg | ClC1=CC=C(C=C1)C=1C=CC(=NC1)C#C | C13H8ClN
product | {5-[5-(4-chloro-phenyl)-pyridin-2-ylethynyl]-pyridin-2-yl}-(2-pyrrolidin-1-yl-ethyl)-amine | ClC1=CC=C(C=C1)C=1C=CC(=NC1)C#CC=1C=CC(=NC1)NCCN1CCCC1 | C24H23ClN4
